data/oMe_Silver.jsonl
{"reaction_id": "NG-004_1-c1ccccc1_2-c1ccc(N(C)C)cc1_3-OCC","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccccc1)C=O","C(c1ccc(N(C)C)cc1)(OCC)=O"],"products_smiles": ["C(c1ccc(N(C)C)cc1)(OCC)=C(C=O)c1ccccc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(OCC)([O-])C(C=O)c1ccccc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of c1ccc(N(C)C)cc1, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(OCC)(O)C(C=O)c1ccccc1","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(OCC)(O)C=C([O-])c1ccccc1","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(OCC)=C(C=O)c1ccccc1","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
{"reaction_id": "NR-208_1-C(F)(F)F_2-OC_3-C(C)CC_4-C","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C(F)(F)F)=C(OC)C(C(C)CC)(C)OC=N"],"products_smiles": ["C(=O)NC(C(F)(F)F)C(OC)=C(C(C)CC)(C)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C(F)(F)F)C(OC)=C(C(C)CC)(C)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
